US08207164B2
j) 5-Bromo-pyridine-2-carboxylic acid [3-(5-amino-3-fluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-phenyl]-amide
A solution of (5-{3-[(5-bromo-pyridine-2-carbonyl)-amino]-phenyl}-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester (48 mg, 0.095 mmol) in 2 ml of 3N HCl in MeOH was stirred at 40° C. for 2 h. The mixture was evaporated, and the residue was purified by chromatography on silica gel with a gradient of dichloromethane and 2-10% MeOH/NH4OH (0.5%), yielding the title compound in the form of a colorless foam. TLC (dichloromethane/MeOH/25% aqueous NH4OH=90:9:1): Rf=0.28; HPLC: RtH1=2.755 min; 1H-NMR (400 MHz, CDCl3): 8.58 (d, 1H), 8.10 (d, 1H), 7.96 (dd, 1H), 7.76 (s, 1H), 7.71 (d, 1H), 7.31 (t, 1H), 7.21 (d, 1H), 4.55-4.33 (m, 2H), 4.13-3.95 (m, 3H), 3.65 (d, 1H), 4.0-3.3 (br, NH2); MS: 407, 409 [(M+H)+].

reactant | (5-{3-[(5-bromo-pyridine-2-carbonyl)-amino]-phenyl}-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | 0.095 mmol, 48 mg | C(C)(C)(C)OC(NC=1COCC(N1)(CF)C1=CC(=CC=C1)NC(=O)C1=NC=C(C=C1)Br)=O | C22H24BrFN4O4
solvent | HCl | 3N, 2 ml | Cl | ClH
solvent | MeOH | CO | CH4O
product | 5-Bromo-pyridine-2-carboxylic acid [3-(5-amino-3-fluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-phenyl]-amide | NC1=NC(COC1)(CF)C=1C=C(C=CC1)NC(=O)C1=NC=C(C=C1)Br | C17H16BrFN4O2
